US04766131
N-(3-Nitrophenylacetyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline (22.0 g, 0.059 m) was added portionwise to 190 ml of 1 M borane in THF which was maintained under a nitrogen atmosphere. The mixture was stirred at ambient temperature for 15 minutes, then heated to reflux for 4 hours. The mixture was cooled in an ice bath, treated carefully with 20% HCl (250 ml), and then refluxed for 1 hour. After cooling, the solvents were removed on an aspirator and the residue treated with 250 ml 20% NaOH and extracted with chloroform (3×200 ml). The extracts were dried over MgSO6 and evaporated to an oily residue. The residue was dissolved in methanol (100 ml) and treated with HCl gas until acidic. Upon cooling, a yellow solid was obtained which was collected by filtration and dried to give 23.2 g N-(3-nitrophenethyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline hydrochloride, m.p. 139°-140°.

reactant | N-(3-Nitrophenylacetyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline | 22.0 g | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)N1C(C2=CC(=C(C=C2CC1)OC)OC)C | C20H22N2O5
reactant | borane | 1 M, 190 ml | B | BH3
reactant | HCl | 250 ml | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | N-(3-nitrophenethyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline hydrochloride | 23.2 g | Cl.[N+](=O)([O-])C=1C=C(CCN2C(C3=CC(=C(C=C3CC2)OC)OC)C)C=CC1 | InChI=1S/C20H24N2O4.ClH/c1-14-18-13-20(26-3)19(25-2)12-16(18)8-10-21(14)9-7-15-5-4-6-17(11-15)22(23)24;/h4-6,11-14H,7-10H2,1-3H3;1H
